US08440652B2
To a 0° C. solution of 5,6-dihydrothieno[2,3-c]pyridin-7(4H)-one (820 mg, 5.36 mmol) in HOAc (7 mL) and (5 mL) water was added bromine (303 μL, 5.9 mmol) and the reaction was stirred 1.5 h. The reaction was diluted in water (30 mL) and the aqueous mixture was extracted with EtOAc (2×50 mL). The combined organics were washed with 5% aq. Na2SO3 (40 mL), sat. aq. NaHCO3 (40 mL), and brine (40 mL). The organic was dried over Na2SO4, then filtered and concentrated. After purification by flash chromatography over silica gel (50-100% EtOAc/hexane eluent), 2-bromo-5,6-dihydrothieno[2,3-c]pyridin-7(4H)-one (906 mg, 73% yield) was isolated as a white solid. 1H NMR (400 MHz, METHANOL-d4) δ ppm 7.10 (s, 1H), 3.55 (t, J=7.0 Hz, 2H), 2.88 (t, J=7.0 Hz, 2H); MS (EI) m/z=233.1 [M+1]+.

reactant | 5,6-dihydrothieno[2,3-c]pyridin-7(4H)-one | 5.36 mmol, 820 mg | S1C=CC2=C1C(NCC2)=O | C7H7NOS
reactant | bromine | 5.9 mmol, 303 μL | BrBr | Br2
solvent | HOAc | 7 mL | CC(=O)O | C2H4O2
solvent | water | 5 mL | O | H2O
solvent | water | 30 mL | O | H2O
product | 2-bromo-5,6-dihydrothieno[2,3-c]pyridin-7(4H)-one | 906 mg, 73% yield | BrC1=CC2=C(C(NCC2)=O)S1 | C7H6BrNOS
